US06410482B1
Preparation of N-tert-butyl-2-methoxycarbonyl-5-(2-dimethylamino-1-azaethenyl)benzenesulfonamide
A mixture of 3.15 g of N-tert-butyl4-amino-2-methoxycarbonylbenzenesulfonamide, 2.2 ml of N,N-dimethylformamide dimethyl acetal and 60 ml of N,N-dimethylformamide is stirred at 50-60° C. until the reaction has ended. The volatile components are then distilled off under reduced pressure. The residue is washed with a little diisopropyl ether. This yields 3.52 g of the desired amidine derivative.

reactant | N-tert-butyl4-amino-2-methoxycarbonylbenzenesulfonamide | 3.15 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C=C1)N)C(=O)OC | C12H18N2O4S
reactant | N,N-dimethylformamide dimethyl acetal | 2.2 ml | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-tert-butyl-2-methoxycarbonyl-5-(2-dimethylamino-1-azaethenyl)benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)N=CN(C)C)C(=O)OC | C15H23N3O4S
